US04329518
During a 45 minute period 3-methyl-2-nitro-[1,1'-biphenyl] (25.4 g, 0.119 mole) was added portionwise at 30° to a stirred solution of stannous chloride (107.5 g, 0.476 mole) and 150 ml of concentrated hydrochloric acid in enough ethanol to produce a solution. After complete addition the mixture was heated at reflux for 17 hours. The mixture was cooled and made basic (pH 9-10) with 4 N aqueous sodium hydroxide, producing a white precipitate. The precipitate was collected by filtration and partitioned between water and methylene chloride. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated to give 3-methyl-[1,1'-biphenyl]-2-amine as a yellow oil.

reactant | 3-methyl-2-nitro-[1,1'-biphenyl] | 0.119 mole, 25.4 g | CC=1C(=C(C=CC1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO2
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-methyl-[1,1'-biphenyl]-2-amine | CC1=C(C(=CC=C1)C1=CC=CC=C1)N | C13H13N
